US04628024
15 g of 3-(2-chloro-5-tetradecanamidoanilino)-1-(2,4,6-trichlorophenyl)-2-pyrazolin-5-one and 5.4 g of 1-(3-carboxyphenyl)-5-mercaptotetrazole were dissolved in 100 ml of DMF and to the solution was added dropwise at room temperature 20 ml of a DMF solution containing 4.9 g of N-bromosuccinimide. After stirring for 30 minutes, 500 ml of water was added to the mixture which was extracted with ethyl acetate. The ethyl acetate was distilled off under reduced pressure and the residue was crystallized from a solvent mixture of ethyl acetate and acetonitrile to obtain 14 g of 3-(2-chloro-5-tetradecanamidoanilino)-1-(2,4,6-trichlorophenyl)-4-[1-(3-carboxyphenyl)-5-tetrazolylthio]-2-pyrazolin-5-one. Yield: 68%. Melting Point: 155° to 165° C.

reactant | 3-(2-chloro-5-tetradecanamidoanilino)-1-(2,4,6-trichlorophenyl)-2-pyrazolin-5-one | 15 g | ClC1=C(NC2=NN(C(C2)=O)C2=C(C=C(C=C2Cl)Cl)Cl)C=C(C=C1)NC(CCCCCCCCCCCCC)=O | C29H36Cl4N4O2
reactant | 1-(3-carboxyphenyl)-5-mercaptotetrazole | 5.4 g | C(=O)(O)C=1C=C(C=CC1)N1N=NN=C1S | C8H6N4O2S
reactant | N-bromosuccinimide | 4.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 500 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-(2-chloro-5-tetradecanamidoanilino)-1-(2,4,6-trichlorophenyl)-4-[1-(3-carboxyphenyl)-5-tetrazolylthio]-2-pyrazolin-5-one | 14 g, Yield: 68% | ClC1=C(NC2=NN(C(C2SC2=NN=NN2C2=CC(=CC=C2)C(=O)O)=O)C2=C(C=C(C=C2Cl)Cl)Cl)C=C(C=C1)NC(CCCCCCCCCCCCC)=O | C37H40Cl4N8O4S
